US08008298B2
A mixture of 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one (60 mg, 0.21 mmol), 4-methoxyphenyl boronic acid (33 mg, 0.22 mmol), potassium carbonate (69 mg, 0.5 mmol), Pd(dppf)Cl2CH2Cl2 (13 mg, 0.016 mmol), 1.7 mL dioxane and 0.4 mL water was stirred at 150° C. in a microwave for 30 min. The resulting mixture was partitioned between ethyl acetate and water. The combined organic layers were dried over Na2SO4 and concentrated to give a dark brown solid. The crude product was purified by preparative thin layer chromatography using 90:9.5:0.5 CH2Cl2:MeOH:conc NH4OH as eluant. The resultant brown solid was washed with ethyl ether to provide 31 mg (50%) of 1-[2-(4-methoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one as a brown solid. MP 207-208° C., M+H 310.

reactant | 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one | 0.21 mmol, 60 mg | BrC=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C11H12BrN3O
reactant | 4-methoxyphenyl boronic acid | 0.22 mmol, 33 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | potassium carbonate | 0.5 mmol, 69 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dioxane | 1.7 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.4 mL | O | H2O
product | 1-[2-(4-methoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 31 mg, 50% | COC1=CC=C(C=C1)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C18H19N3O2
